US06172057B2
To a stirred solution of 2-(4-methoxy-benzenesulfonyl)propionic acid ethyl ester (2.7 gm, 10 mmol), 3-picolyl chloride hydrochloride (3.2 g, 20 mmol). and triethyl benzylammonium chloride (1 g) in methylene chloride (400 ml), 10 N NaOH (30 ml) was added. The reaction was continued at room temp for 48 hours. At the end, the organic layer was separated and washed well with water. The organic layer was dried, filtered and concentrated. The crude product obtained was purified by silica-gel column chromatography. The column was eluted with 50% ethyl acetate: hexane. 2-(4-Methoxy-benzensulfonyl)-2-methyl-3-pyridin-3-yl-propionic acid ethyl ester was isolated as brown oil. Yield 3.0 g, 82%; Brown oil; MS: 364 (M+H)+.

reactant | 2-(4-methoxy-benzenesulfonyl)propionic acid ethyl ester | 10 mmol, 2.7 gm | C(C)OC(C(C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C12H16O5S
reactant | 3-picolyl chloride hydrochloride | 20 mmol, 3.2 g | Cl.N1=CC(=CC=C1)CCl
catalyst | triethyl benzylammonium chloride | 1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 2-(4-Methoxy-benzensulfonyl)-2-methyl-3-pyridin-3-yl-propionic acid ethyl ester | C(C)OC(C(CC=1C=NC=CC1)(C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H21NO5S
